US04735940
(aaa) 38.9 g of methyl 3,3'-dithiobis-thiophene-2-carboxylate were suspended in 1500 ml of 1N sodium hydroxide solution and 700 ml of ethanol, whereupon the suspension was heated under reflux until the reaction finished. After cooling, in an ice-bath the mixture was acidified with 25 percent hydrochloric acid, whereby the product crystallized out. By recrystallization from water, there was obtained 3,3'-dithio-bis-thiophene-2-carboxylic acid as colorless crystals of m.p. 256°-257°.

reactant | methyl 3,3'-dithiobis-thiophene-2-carboxylate | 38.9 g | S1C(=C(C=C1)SSC1=C(SC=C1)C(=O)[O-])C(=O)OC
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 1500 ml | [OH-].[Na+]
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 3,3'-dithio-bis-thiophene-2-carboxylic acid | S1C(=C(C=C1)SSC1=C(SC=C1)C(=O)O)C(=O)O | C10H6O4S4
